US04633008
1,3,5-tris[3-(3-tert-butyl-2-hydroxy-5-methylphenyl)propoxycarbonyl]benzene (Illustrative Compound No. 20)
Into a 100 ml reactor equipped with a condenser, thermometer and nitrogen introducing thin tube were charged 1.54 g (6.00 mmol) of trimethyl 1,3,5-benzenetricarboxylate, 4.00 g (18.00 mmol) of 3-(3-tert-butyl-2-hydroxy-5-methylphenyl)-1-propanol and 20 ml of N,N-dimethylformamide. The pressure of the reaction system was reduced to 20 mmHg and 75 vol% (15 ml) of N,N-dimethylformamide was distilled away to dry the reactants, solvent and apparatus. The reaction system was cooled to room temperature, and the vacuum was broken by introducing dry nitrogen. 0.07 g (1.8 mmol) of sodium amide was immediately added to initiate the ester exchange reaction. The reaction system was heated at 50° to 60° C. under 20 mmHg for 2 to 3 hours, and then heated at 60° to 80° C. under 20 mmHg for 2 to 3 hours while distilling N,N-dimethylformamide. Thereafter, the reaction mixture was further heated at 100° to 120° C. under 5 mmHg for 2 to 3 hours. When the reaction was completed, the reaction product was neutralized with dilute hydrochloric acid and then chloroform was added. After liquid separation and dehydration with anhydrous sodium sulfate, the organic solvent was removed under reduced pressure. After separation by silica gel chromatography (solvent: chloroform), 2.60 g (3.16 mmol) of the desired product was obtained. The yield was 53%. The physical properties of the product are shown below.

reactant | trimethyl 1,3,5-benzenetricarboxylate | 6.00 mmol, 1.54 g | C1(=CC(=CC(=C1)C(=O)OC)C(=O)OC)C(=O)OC | C12H12O6
reactant | 3-(3-tert-butyl-2-hydroxy-5-methylphenyl)-1-propanol | 18.00 mmol, 4.00 g | C(C)(C)(C)C=1C(=C(C=C(C1)C)CCCO)O | C14H22O2
reactant | sodium amide | 1.8 mmol, 0.07 g | [NH2-].[Na+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1,3,5-tris[3-(3-tert-butyl-2-hydroxy-5-methylphenyl)propoxycarbonyl]benzene | 3.16 mmol, 2.60 g, yield was 53% | C(C)(C)(C)C=1C(=C(C=C(C1)C)CCCOC(=O)C1=CC(=CC(=C1)C(=O)OCCCC1=C(C(=CC(=C1)C)C(C)(C)C)O)C(=O)OCCCC1=C(C(=CC(=C1)C)C(C)(C)C)O)O | C51H66O9
